US07541482B2
A 1-liter two-necked flask equipped with a condenser and a Dean-Stark trap was charged with 129 g (0.5 mol) of starting material dibutyltin oxide (manufactured by Aldrich Chemical Co., U.S.A.) and 510 g (5.0 mol) of reactant 2-ethyl-1-butanol (manufactured by Aldrich Chemical Co., U.S.A., 98%). Distillation was carried out while stirring with a stirrer by heating for 6 hours in an oil bath in which the temperature was maintained at 160° C., wherein the generated water and 2-ethyl-1-butanol were reacted while being distilled off. After being allowed to cool, using dibutyltin oxide as a reference, the flask contained a yield of about 8% dibutyl-bis(2-ethyl-butyloxy)tin, 80% 1,1,3,3-tetrabutyl-1,3-bis(2-ethyl-butyloxy)-distannoxane and 6% tributyltin(2-ethyl-butyloxide). The dehydration rate in the reactor was 0.045 mol/Hr, which was lower than the value 0.273 mol/Hr calculated from expression (16).

reactant | dibutyltin oxide | C(CCC)[Sn](CCCC)=O
reactant | 2-ethyl-1-butanol | C(C)C(CO)CC | C6H14O
reactant | 1,1,3,3-tetrabutyl-1,3-bis(2-ethyl-butyloxy)-distannoxane | C(CCC)[Sn](O[Sn](OCC(CC)CC)(CCCC)CCCC)(OCC(CC)CC)CCCC
product | dibutyl-bis(2-ethyl-butyloxy)tin | yield of about 8% | C(CCC)[Sn](OCC(CC)CC)(OCC(CC)CC)CCCC | InChI=1S/2C6H13O.2C4H9.Sn/c2*1-3-6(4-2)5-7;2*1-3-4-2;/h2*6H,3-5H2,1-2H3;2*1,3-4H2,2H3;/q2*-1;;;+2
